US04732895
4-(4-Fluorophenyl)-α-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-α-phenyl-1-piperazineethanol
A mixture of 1.5 g of 2-[4-(4-fluorophenyl)-1-piperazinyl]-1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone in 20 ml of dry tetrahydrofuran and 10 ml of 1.7M phenyl magnesium bromide in 10 ml of ether was reacted as described in Example 41 giving 2 g of a foam. This foam was purified by chromatography, giving 0.75 g of the desired product as a light yellow foam.

reactant | 2-[4-(4-fluorophenyl)-1-piperazinyl]-1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone | 1.5 g | FC1=CC=C(C=C1)N1CCN(CC1)CC(=O)C=1N=C(NC1C)C=1C=NC=CC1 | C21H22FN5O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | phenyl magnesium bromide | 1.7M, 10 ml | C1(=CC=CC=C1)[Mg]Br
solvent | ether | 10 ml | CCOCC | C4H10O
product | 4-(4-Fluorophenyl)-α-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-α-phenyl-1-piperazineethanol | 0.75 g | FC1=CC=C(C=C1)N1CCN(CC1)CC(O)(C1=CC=CC=C1)C=1N=C(NC1C)C=1C=NC=CC1 | C27H28FN5O
